US08168666B2
c) Preparation of 3-(4-hydroxy-2-butynyl)-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione
A solution of tetrabutylammonium fluoride in tetrafuran (602 μL) was added to a mixed solution of 3-[4-(t-butyl-diphenylsilyloxy)-2-butynyl]-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione (300 mg, 547 μmol) in tetrahydrofuran (5 mL) at room temperature. After completion of the reaction, 1 mol/L hydrochloric acid (0.5 mL) was added, followed by extraction with ethyl acetate-water. The organic layer was washed with a saturation sodium chloride solution and then dried over sodium sulfate. The solvent of the filtrate was evaporated, and the residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to obtain 115 mg of the title compound (yield: 90%) as a colorless oil.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-[4-(t-butyl-diphenylsilyloxy)-2-butynyl]-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione | 547 μmol, 300 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC#CCN1C(NC(C1=O)(C1=CC=C(C=C1)OC(C)C)C)=O | C33H38N2O4Si
reactant | hydrochloric acid | 1 mol/L, 0.5 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(4-hydroxy-2-butynyl)-5-methyl-5-[4-(1-methylethoxy)phenyl]imidazolidine-2,4-dione | 115 mg, yield: 90% | OCC#CCN1C(NC(C1=O)(C1=CC=C(C=C1)OC(C)C)C)=O | C17H20N2O4
